US04760075
Preparation of N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-nitroguanidine
A reaction mixture was prepared containing 1.2 g. of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine, 0.77 g. of S-methyl-N-methyl-N'-nitroisothiourea and 10 ml. of methanol. The reaction mixture was heated under reflux for 4.25 hours, after which time the solvent was removed by evaporation. The partially solid residue was chromatographed over silica using a gradient elution technique employing ethyl acetate containing increasing quantities of methanol as the eluant. Fractions shown by tlc to contain N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-nitroguanidine formed in the above reaction were pooled and the solvent removed from the pooled fractions. Trituration of the resulting residue with ether yielded a crystalline solid which, upon recrystallization from a methanol-ethyl acetate solvent mixture, yielded 0.83 g. of crystals melting at about 86.5°-88° C.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | S-methyl-N-methyl-N'-nitroisothiourea | CSC(NC)=N[N+](=O)[O-] | C3H7N3O2S
solvent | methanol | CO | CH4O
product | N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-nitroguanidine | CNC(=N[N+](=O)[O-])NCCSCC=1N=C(SC1)CN(C)C | C11H20N6O2S2
